US03974278
6.5 g of 3-cyanobenzaldehyde, 8.7 g of γ-ethoxyaceto-acetic acid ethyl ester and 7.2 g of β-amino-β-ethylacrylic acid ethyl ester in 80 ml of ethanol are heated overnight under reflux, the mixture is cooled, and after filtration, and washing with cold ethanol, 2-ethoxymethyl-6-ethyl-4-(3'-cyanophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester is obtained in the form of light yellow crystals of melting point 125°C, in a yield of 42% of theory.

reactant | 3-cyanobenzaldehyde | 6.5 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | γ-ethoxyaceto-acetic acid ethyl ester | 8.7 g | C(C)OC(CC(=O)COCC)=O | C8H14O4
reactant | β-amino-β-ethylacrylic acid ethyl ester | 7.2 g | C(C)OC(C=C(CC)N)=O | C7H13NO2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-ethoxymethyl-6-ethyl-4-(3'-cyanophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | yield of 42% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)C#N)C(=O)OCC)CC)COCC | C23H28N2O5
